US04740602
A mixture of 36.9 g of 2-[4-(5-cyano-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine (obtainable from the corresponding 5-formyl compound via the oxime), 27.1 g of NaOH, 520 ml of water and 420 ml of diethylene glycol monoethyl ether is stirred at a bath temperature of 140° for 3 hours. The mixture is cooled, the usual working up is carried out, and 2-[4-(5-carbamoyl-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine is obtained.

reactant | 2-[4-(5-cyano-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine | 36.9 g | C(#N)C=1C=C2C(=CNC2=CC1)CCCCN1CC2=C(CC1)C1=C(O2)C=CC=C1 | C24H23N3O
reactant | NaOH | 27.1 g | [OH-].[Na+]
reactant | diethylene glycol monoethyl ether | 420 ml | C(C)OCCOCCO | C6H14O3
solvent | water | 520 ml | O | H2O
product | 2-[4-(5-carbamoyl-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine | C(N)(=O)C=1C=C2C(=CNC2=CC1)CCCCN1CC2=C(CC1)C1=C(O2)C=CC=C1 | C24H25N3O2
